US03984407
The crude 5-hydroxy-5-diethylaminopropyl-9-methyl-6,7,8,9-tetrahydro-5H-benzocycloheptene is dissolved in 100 ml. of diethyl ether and added to 500 ml. of liquid ammonia. The solution is treated with 20 g. of lithium is small portions. After one-half hr., the mixture is treated slowly dropwise with absolute ethanol until the color discharges completely. After removal of NH3 the residue is cooled, treated with water and extracted with ether. The dried extracts are freed of solvent leaving crude 5-diethylaminopropyl-9-methyl-1,4,6,7,-8,9-hexahydro-5H-benzocycloheptene, which is converted to the corresponding tetrol as described hereinbefore.

reactant | 5-hydroxy-5-diethylaminopropyl-9-methyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | OC1(CCCC(C2=C1C=CC=C2)C)CCCN(CC)CC | C19H31NO
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
solvent | ethanol | C(C)O | C2H6O
product | 5-diethylaminopropyl-9-methyl-1,4,6,7,-8,9-hexahydro-5H-benzocycloheptene | C(C)N(CC)CCCC1CCCC(C2=C1CC=CC2)C | C19H33N
